US07863283B2
6-Bromo-N-isopropyl-7-{[5-(methylsulphanyl)pyridin-3-yl]methoxy}quinazolin-4-amine
According to GWP 5, the reaction of N′-(4-bromo-2-cyano-5-{[5-(methylsulphanyl)-pyridin-3-yl]methoxy}phenyl)-N,N-dimethylformimidamide (540 mg, 1.33 mmol) with isopropylamine (0.14 mL, 1.6 mmol) and chromatography (silica gel, dichloro-methane/methanol: 0→30% methanol) gives the desired product in 77% yield (430 mg)

reactant | N′-(4-bromo-2-cyano-5-{[5-(methylsulphanyl)-pyridin-3-yl]methoxy}phenyl)-N,N-dimethylformimidamide | 1.33 mmol, 540 mg | BrC1=CC(=C(C=C1OCC=1C=NC=C(C1)SC)N=CN(C)C)C#N | C17H17BrN4OS
reactant | isopropylamine | 1.6 mmol, 0.14 mL | C(C)(C)N | C3H9N
reactant | dichloro-methane methanol | ClCCl.CO
solvent | methanol | CO | CH4O
product | 6-Bromo-N-isopropyl-7-{[5-(methylsulphanyl)pyridin-3-yl]methoxy}quinazolin-4-amine | 77% yield | BrC=1C=C2C(=NC=NC2=CC1OCC=1C=NC=C(C1)SC)NC(C)C | C18H19BrN4OS
